Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary angiogram with placement of drug-eluting stent 
into the RCA

 
History of Present Illness:
___ is a ___ woman with a background history 
of left/right total hip replacement, who presented to the ED 
with chest pain, subsequently found to have inferior STEMI, 
prompting transfer to the cath lab.

Patient was in her usual state of health when she awoke this 
morning. Went about her normal activities without any symptoms. 
On drive to work, reported developing retrosternal chest 
pressure, as if an elephant was sitting on her chest. Associated 
diaphoresis and sensation as if she could not take a deep 
breath. Initially thought she was having a panic attack, 
attributing possible anxiety to her return to work, but given 
persistence of symptoms over the next ___ minutes, co-workers 
called EMS. Patient was unable to get out of car the pain was so 
severe. Upon arrival of EMS, patient was found to be hypotensive 
to ___, but on recheck was in 100s. EKG was concerning for 
STEMI, so patient was
given aspirin 324mg and transferred to ___ for further 
evaluation. 
 
In the ED, initial vital signs were notable;
BP 170/80s

Labs were notable for;
WBC 16.1  Hgb 15.5  Plt 286
___ 10.5  PTT 23.4  INR 1.0
Na 140  K 3.6  Cl 105  HCO3 21  BUN 16  Cr 0.9  Lipase 74
Lactate 4.6
 
EKG was notable for;
Sinus bradycardia, rate 52bpm, normal axis, STE in II, III, aVF 
with reciprocal depressions in I and aVL.

Code STEMI was called for inferior STE, and patient was taken to 
the cath lab. Right radial access. No coronary artery disease in 
left sided system, but was notable for small vessels which 
tapered distally. RCA with 20% proximal stenosis, followed by a 
100% thrombotic occlusion. Patient was preloaded with ticagrelor 
180mg and started on tirofiban drip. ___ placed 
without issue, with TIMI 3 flow post balloon dilation. Patient 
was chest free post procedure. Did require dose of atropine for 
bradycardia during procedure. 

Upon arrival to the floor, patient repeats the above story. Also 
adds for the past day she had been experiencing severe hot 
flashes, but had attributed them to menopause. Concerned they 
may have been warning symptom. Last week did have one episode of 
sharp chest pain lasting seconds while lying in bed, which
resolved spontaneously. Otherwise no previous episodes of chest 
pain at rest or with exertion. Lives on second floor apartment 
and can climb stairs without issue. Currently, denies chest 
pain, shortness of breath, palpitations, light-headedness and 
dizziness.

10-point review of systems notable for chronic low back pain, 
but otherwise unremarkable. 
 
Past Medical History:
- Left and right total hip replacement
- Right knee arthroscopic knee surgery
- Uterine artery embolization ___
 
Social History:
___
Family History:
Grandmother with stroke in her ___, and grandfather with stroke 
in his ___. No family history of early MI, arrhythmia, 
cardiomyopathies, or sudden cardiac death. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===============================
VS: Temp: 97.5 (Tm 97.5), BP: 136/93 (120-136/80-93), HR: 53
(47-64), RR: 18, O2 sat: 99% (98-99), O2 delivery: RA

GENERAL: lying comfortably in bed, no acute distress
HEENT: AT/NC, EOMI, PERRL, no conjunctival pallor, anicteric 
clera, MMM
NECK: supple, non-tender, no JVP elevation
CV: bradycardic, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles, breathing comfortably on room 
ir
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema, 
right R band in place, good sensation, color, and movement in 
hand, capillary refill <2 seconds
NEURO: A/O x3, CN II-XII intact, strength ___ in all 
extremities, sensation intact

DISCHARGE PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 1119)
    Temp: 98.1 (Tm 98.6), BP: 97/59 (97-128/59-85), HR: 61
(61-74), RR: 18 (___), O2 sat: 98% (98-99), O2 delivery: Ra  

GENERAL: lying comfortably in bed, no acute distress
HEENT: MMM
NECK: supple, non-tender, JVP <6
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles, breathing comfortably on room 
air
EXTREMITIES: warm, well perfused, no lower extremity edema, 
right Tegaderm, good sensation, color, and movement in hand, 
capillary refill <2 seconds
NEURO: A/O x3
PSYCH: anxious affect and mood
 
Pertinent Results:
ADMISSION LABS
======================
___ 08:40AM BLOOD WBC-16.1* RBC-5.28* Hgb-15.5 Hct-45.9* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-13.2 RDWSD-41.3 Plt ___
___ 08:40AM BLOOD ___ PTT-23.4* ___
___ 08:40AM BLOOD ___ 03:16PM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-141 
K-5.0 Cl-106 HCO3-22 AnGap-13
___ 08:40AM BLOOD Lipase-74*
___ 08:40AM BLOOD cTropnT-<0.01
___ 03:16PM BLOOD Calcium-9.0 Phos-3.8 Mg-1.9
___ 08:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:44AM BLOOD Glucose-163* Lactate-4.6* Na-140 K-3.6 
Cl-105 calHCO3-21

RELEVANT LABS
======================
___ 06:18AM BLOOD %HbA1c-5.4 eAG-108
___ 06:18AM BLOOD Triglyc-186* HDL-38* CHOL/HD-6.8 
LDLcalc-182*

RELEVANT IMAGING
======================
___ Coronary angiography, RCA stent placement

Right dominant:
LMCA: No significant flow limiting stneosis.
LAD: No flow limiting stenosis, but vessel tappers down to a 
very small caliber vessel.
LCx. No significant epicardial coronary artery disease.
RCA; Proximal 20% stenosis followed by a 100% thrombotic 
occlusion.

Onyx DES was placed. There was no residual and TIMI 3 flow and 
EKG ischemic changes resolved.

___ TTE

CONCLUSIONS
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
mild regional left ventricular systolic dysfunction with 
akinesis of the inferior and basal inferolateral segments and 
hypokinesis of the basal inferoseptal segment (see schematic). 
The visually estimated left ventricular ejection fraction is 
40%. There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Normal right ventricular
systolic function. No clinically-significant valvular disease 
seen.

DISCHARGE LABS
======================
___ 06:50AM BLOOD WBC-8.1 RBC-4.88 Hgb-14.3 Hct-42.1 MCV-86 
MCH-29.3 MCHC-34.0 RDW-13.2 RDWSD-41.1 Plt ___
___ 06:50AM BLOOD Glucose-86 UreaN-13 Creat-0.9 Na-139 
K-4.6 Cl-101 HCO3-27 AnGap-11
___ 06:50AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.2

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of 
left/right total hip replacement, who presented to the ED with 
chest pain, subsequently found to have inferior STEMI, prompting 
transfer to the cath lab. She is now status post drug-eluting 
stent placement to the RCA.

====================
ACUTE/ACTIVE ISSUES:
====================

# Inferior STEMI
# Bradycardia
Patient presented with retrosternal chest pain, pressure like in 
nature, with associated shortness of breath and diaphoresis. 
Brought by EMS to ED, where she was noted to have STE in II, 
III, and aVF, with STD in I and aVL, concerning for inferior 
STEMI. Coronary angiogram was performed, demonstrating 100% 
thrombotic occlusion of RCA, which was opened with drug-eluting 
stent, with restoration of TIMI 3 flow. She did require a dose 
of atropine in cath lab for bradycardia. Subsequent TTE 
demonstrated a reduced EF of 40% with associated 
inferior/inferolateral hypokinesis-akinesis (RCA distribution), 
but otherwise no significant valvular disease. Remained chest 
pain free for the entirety of admission, except for some mild 
chest pressure post cath, attributable to anxiety associated 
with nicotine withdrawal, without EKG changes consistent with 
ischemia. Discharge medications include aspirin 81mg daily, 
clopidogrel 75mg daily, atorvastatin 80mg daily, lisinopril 5mg 
daily and metoprolol succinate 12.5mg daily. Patient will 
complete clopidogrel load of 600mg on ___, before 
transitioning to 75mg daily on ___. Will also provide nicotine 
patch to aide with smoking cessation. 

======================
CHRONIC/STABLE ISSUES:
======================

# Chronic low back pain
She was continued on home oxycodone 5mg Q6H PRN.

====================
TRANSITIONAL ISSUES:
====================

- discharge Hgb 14.3
- discharge creatinine 0.9
- discharge weight 94.3kg (207.89lb) 

MEDICATION CHANGES:
[] started aspirin 81mg daily
[] one dose of clopidogrel 600mg on ___ AM, then 75mg daily 
from ___ AM
[] started atorvastatin 80mg daily 
[] started lisinopril 5mg daily
[] started metoprolol succinate 12.5mg daily
[] started nicotine patch 21mg daily

[] DAPT: important to continue aspirin 81mg and clopidogrel 75mg 
daily for minimum 12 months 
[] EF 40%: recommend repeat TTE in ___ weeks to evaluate for 
improved EF
[] ___: close monitoring of BP; recommend up-titration of 
___ given reduced EF
[] BB: recommend up-titration of same as heart rates tolerate 
[] HLD: recommend repeat lipid panel in ___ weeks to evaluate 
for need for second agent
[] TOBACCO ABUSE: given nicotine patch on discharge; ongoing 
discussion regarding support options available
[] CARDIAC REHAB: ___ felt patient a good candidate for same; 
recommend discussion regarding same with outpatient providers 

=============================================
# CODE STATUS: Full
# CONTACT: ___, aunt, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*2 
3.  Clopidogrel 600 mg PO ONCE Duration: 1 Dose 
Please take only on ___. 
RX *clopidogrel 300 mg 2 tablet(s) by mouth ONCE Disp #*2 Tablet 
Refills:*0 
4.  Clopidogrel 75 mg PO DAILY 
Please start on ___. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*2 
5.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
6.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
Daily Disp #*15 Tablet Refills:*2 
7.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour One patch Every 24 hours Disp #*28 
Patch Refills:*2 
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
9.Outpatient Lab Work
Please check CBC, chem 10 in 1 week (___) and fax results to 
the PCP ___ at ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
PRIMARY DIAGNOSES:
==================

Inferior ST-elevation myocardial infarction, with drug eluting 
stent to right coronary artery
Bradycardia
Tobacco use

====================
SECONDARY DIAGNOSES:
====================

Osteoarthritis/Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ as you were having chest pain.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You were found to have a heart attack.
- You underwent a coronary angiogram, which showed a blockage in 
a blood vessel in your heart. This was opened by placing a 
stent.
- An ultrasound of your heart showed it was pumping slightly 
worse than normal, but still at a good level.
- We started you on several medications to reduce the risk of 
future heart attacks and to help your heart recover.

WHAT YOU MUST DO WHEN YOU LEAVE THE HOSPITAL
- You need to follow-up with your PCP as arranged.
- You also need to follow-up with cardiology as arranged below.
- It is important you continue to take all your medications as 
prescribed.

It was a pleasure taking care of you!

Your ___ Healthcare Team

MEDICATION CHANGES:
[] started aspirin 81mg daily
[] one dose of clopidogrel 600mg on ___ AM, then 75mg daily 
from ___ AM
[] started atorvastatin 80mg daily 
[] started lisinopril 5mg daily
[] started metoprolol succinate 12.5mg daily
[] started nicotine patch 21mg daily
 
Followup Instructions:
___